US06824893B2
Preparation of Bis(2-quinolinyl)acetonitrile:
To a solution of 2-quinolylacetonitrile (14.5 g, 86.2 mmol) in toluene (200 mL) was added slowly NaH (6.9 g of 60% oil dispersion, 172 mmol). The reaction mixture was stirred at ambient temperature for 15 min at which point H2 evolution was no longer evident. A solution of 2-chloroquinoline (14.1 g, 86.2 mmol) in toluene (150 mL) was added to the reaction flask, and the reaction mixture was then heated at reflux for 18 h. The reaction mixture was cooled to ambient temperature, diluted with THF, and quenched with H2O. The organic solution was washed with 1N HCl (200 mL), saturated aqueous solution of NaHCO3, and brine. An orange solid precipitated from the organic layer and was isolated via vacuum filtration. The mother liquor was dried over MgSO4 and the volatile components were removed with a rotary evaporator. The resulting solid was combined with the orange powder isolated via filtration. The solid was washed with a mixture of ether and heptane to afford 14.7 g (57.6%) of product. Results of 1H NMR spectroscopy and electrospray mass spectroscopy are consistent with the product. 1H NMR (300 MHz, CDCl3): δ 7.36 (m, 2H), 7.57 (d, J=9.1 Hz, 2H), 7.64 (m, 4H), 7.73 (d, J=8.8 Hz, 2H), 7.86 (d, J=9.1 Hz, 2H).

reactant | 2-quinolylacetonitrile | 86.2 mmol, 14.5 g | N1=C(C=CC2=CC=CC=C12)CC#N | C11H8N2
reactant | NaH | 172 mmol, 6.9 g | [H-].[Na+]
reactant | 2-chloroquinoline | 86.2 mmol, 14.1 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
product | Bis(2-quinolinyl)acetonitrile | 14.7 g, 57.6% | N1=C(C=CC2=CC=CC=C12)C(C#N)C1=NC2=CC=CC=C2C=C1 | C20H13N3
